US08557802B2
Ethyl 2-(4-cyanophenoxy)butanoate
Potassium carbonate (14.5 g, 105 mmol) was added to an acetonitrile (80.0 mL) solution of 4-cyanophenol (5.00 g, 42.0 mmol) and ethyl 2-bromobutyrate (9.83 g, 50.4 mmol) at room temperature, and the mixture was stirred for 3 hours at 80° C. After the mixture was cooled to room temperature, water was added to the reaction mixture, and the mixture was subjected to extraction two times with ethyl acetate. The organic layer thus obtained was washed with saturated brine, and then was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→2:1, v/v). Thus, the title compound (9.79 g, yield: 100%) was obtained.

reactant | Potassium carbonate | 105 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 80.0 mL | C(C)#N | C2H3N
reactant | 4-cyanophenol | 42.0 mmol, 5.00 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | ethyl 2-bromobutyrate | 50.4 mmol, 9.83 g | BrC(C(=O)OCC)CC | C6H11BrO2
solvent | water | O | H2O
product | Ethyl 2-(4-cyanophenoxy)butanoate | 9.79 g, yield: 100% | C(#N)C1=CC=C(OC(C(=O)OCC)CC)C=C1 | C13H15NO3
